US08071631B2
3,4-Dimethoxy-N-[1-methyl-3-phenyl-pyrazol-5-yl]benzenesulfonamide
To a solution of 1-methyl-3-phenyl-pyrazol-5-amine (346 mg, 2 mmol) in 10 mL of dry pyridine was added 529 mg (2.23 mmol) of 3,4-dimethoxybenzenesulfonyl chloride. The solution was stirred at room temperature under Argon. After 22 h, the pyridine was removed in vacuo and flashed off with toluene. The crude base soluble material (1M NaOH) weighed 1.1 g. The crude product was taken up in EtOAc and extracted with 1M NaOH and H2O alternately. The basic aqueous phase was made acidic with 1M HCl, extracted with EtOAc, washed with water, dried and evaporated in vacuo to give a cream colored solid (0.70 g) which was taken up in 5 mL of hot EtOH, diluted with 5 mL of H2O and seeded to give 473 mg of a solid with mp 163-165° C. after drying in vacuo.

reactant | 1-methyl-3-phenyl-pyrazol-5-amine | 2 mmol, 346 mg | CN1N=C(C=C1N)C1=CC=CC=C1 | C10H11N3
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 2.23 mmol, 529 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3,4-Dimethoxy-N-[1-methyl-3-phenyl-pyrazol-5-yl]benzenesulfonamide | 0.70 g | COC=1C=C(C=CC1OC)S(=O)(=O)NC1=CC(=NN1C)C1=CC=CC=C1 | C18H19N3O4S
